US05929117
1-(3,4-Dimethoxybenzoyl)naphthalene was prepared analogously to 3,4,3',4'-tetramethoxybenzophenone using veratrole (1.3 mL, 10 mmol), aluminum chloride (1.5 g, 11 mmol) and 1-naphthoyl chloride (1.5 mL, 10 mmol) with a reaction time of 24 hours at room temperature. The crude product was purified by flash column chromatography (silica gel, 2.5% ethyl acetate/methylene chloride) to afford 1.85 g (63%) of the product as a white solid: mp 92.5-94.5° C.; 1H NMR (CDCl3) δ 8.06-7.84 (m, 3H), 7.80-7.39 (m, 5H), 7.31-7.21 (m, 1H), 6.84-6.74 (m, 1H), 3.94 (s, 3H), 3.91 (s, 3H); 13C NMR (CDCl3) δ 196.6, 153.5, 149.0, 136.8, 133.6, 131.1, 130.9, 130.5, 128.2, 126.9, 126.7, 126.3, 126.3, 125.6, 124.3, 111.3, 109.7, 56.0, 55.9; Anal. Calcd for C19H16O3. Theoretical: C, 78.06; H, 5.52. Found: C, 77.97; H, 5.66.

reactant | 3,4,3',4'-tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=CC1OC | C17H18O5
reactant | veratrole | 10 mmol, 1.3 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 11 mmol, 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-naphthoyl chloride | 10 mmol, 1.5 mL | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 1-(3,4-Dimethoxybenzoyl)naphthalene | COC=1C=C(C(=O)C2=CC=CC3=CC=CC=C23)C=CC1OC | C19H16O3
